US08389508B2
To a solution of methyl 3-cyano-4-hydroxybenzoate (D21) (1.3 g) and 1,1,1-trifluoro-N-phenyl-N-[(trifluoromethyl)sulfonyl]methanesulfonamide (3.28 g) in acetonitrile (50 mL) at room temperature was added DIPEA (1.602 mL). Then the reaction mixture was stirred at 25° C. for 12 h. The solvent was removed under reduced pressure and the crude product was purified by column chromatography to afford methyl 3-cyano-4-{[(trifluoromethyl)sulfonyl]oxy}benzoate (D22) (1.9 g) as a colorless oil. MS (ES): C10H6F3NO5S requires 309. found 309.9 (M+H+).

reactant | methyl 3-cyano-4-hydroxybenzoate | 1.3 g | C(#N)C=1C=C(C(=O)OC)C=CC1O | C9H7NO3
reactant | 1,1,1-trifluoro-N-phenyl-N-[(trifluoromethyl)sulfonyl]methanesulfonamide | 3.28 g | FC(S(=O)(=O)N(S(=O)(=O)C(F)(F)F)C1=CC=CC=C1)(F)F | C8H5F6NO4S2
reactant | DIPEA | 1.602 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | methyl 3-cyano-4-{[(trifluoromethyl)sulfonyl]oxy}benzoate | 1.9 g | C(#N)C=1C=C(C(=O)OC)C=CC1OS(=O)(=O)C(F)(F)F | C10H6F3NO5S
